US08895313B2
2-{4-[2-(4-Aminophenyl)-vinyl]-phenyl}-6-methoxybenzothiazole
Prepared as described in the Nitro Reduction section using 2-{4-[2-(4-nitrophenyl)-vinyl]-phenyl}-6-methoxybenzothiazole (0.10 g, 0.28 mmol) and tin (II) chloride dihydrate (0.5 g, 2.23 mmol) in EtOH (7 ml) to give the title compound (0.04 g, 43%) as a yellow solid after work-up and flash chromatography (2:1 Hexane/EtOAc).

reactant | 2-{4-[2-(4-nitrophenyl)-vinyl]-phenyl}-6-methoxybenzothiazole | 0.28 mmol, 0.10 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C22H16N2O3S
reactant | tin (II) chloride dihydrate | 2.23 mmol, 0.5 g | O.O.[Sn](Cl)Cl
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | EtOH | 7 ml | CCO | C2H6O
product | 2-{4-[2-(4-Aminophenyl)-vinyl]-phenyl}-6-methoxybenzothiazole | 0.04 g, 43% | NC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C22H18N2OS
